US04840947
9-Fluoro-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
In a dried 1 L three-necked flask, 1,2-dibromoethane (0.5 ml) was added to a refluxing slurry of magnesium chips (6.3 gm) in tetrahydrofuran (50 ml) to initiate a Grignard reaction. The mixture became cloudy and a vigorous reaction ensued. A solution of N-methyl-4-chloropiperidine (37 ml) in tetrahydrofuran (40 ml) was added in portions to maintain a fast reflux over a period of 10 minutes. The resultant slurry was refluxed for 1.5 hours and thereafter cooled to about 5° C. with an ice-water bath. A solution of 9-fluoro-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (15.7 gm) in tetrahydrofuran (70 ml) was added in 5 minutes. The mixture was stirred for 40 minutes.

reactant | 1,2-dibromoethane | 0.5 ml | BrCCBr | C2H4Br2
reactant | magnesium | [Mg] | Mg
reactant | N-methyl-4-chloropiperidine | 37 ml | CN1CCC(CC1)Cl | C6H12ClN
reactant | 9-fluoro-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 15.7 gm | FC1=CC2=C(N3C4=C(C=N2)C=CC=C4CC3)C=C1 | C15H11FN2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 9-Fluoro-6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | FC1=CC2=C(N3C4=C(C(N2)C2CCN(CC2)C)C=CC=C4CC3)C=C1 | C21H24FN3
